US07166598B2
A mixture of 3-methoxy-4-methylbenzylalcohol (41.61 g), conc. hydrochloric acid (125 ml) and toluene (83 ml) was stirred at 90° C. for 1 hour. After cooling, ice-water (125 ml) and diisopropyl ether (80 ml) were added to the mixture, and the organic layer was separated, and the aqueous layer was extracted with diisopropyl ether (160 ml). The combined organic layer was washed with saturated sodium hydrogen carbonate solution and brine, dried over sodium sulfate, and evaporated in vacuo to give 3-methoxy-4-methylbenzyl chloride (46.35 g) as an oil.

reactant | 3-methoxy-4-methylbenzylalcohol | 41.61 g | COC=1C=C(CO)C=CC1C | C9H12O2
reactant | hydrochloric acid | 125 ml | Cl | ClH
reactant | diisopropyl ether | 80 ml | C(C)(C)OC(C)C | C6H14O
solvent | toluene | 83 ml | C1(=CC=CC=C1)C | C7H8
product | 3-methoxy-4-methylbenzyl chloride | 46.35 g | COC=1C=C(CCl)C=CC1C | C9H11ClO
